US09120837B2
To a solution of 3-iodoaniline (2.19 g, 10.0 mmol) and 2-bromoacetyl bromide (0.87 mL, 3.40 g, 10.0 mmol) in DCM (100 mL) was added Et3N (1.39 mL) at 0° C. The reaction mixtures were stirred at room temperature for overnight. The reaction mixtures were diluted with DCM (100 mL), washed with water, and dried over Na2SO4. Solvent was evaporated under reduce pressure to afford a residue, which was purified by biotage eluting with 10% EtOC in hexanes to 100% EtOAc to afford 2-bromo-N-(3-iodophenyl)acetamide (2.824 g, 83%). MS (ESI), 340, 342 (M+H)+.

reactant | 3-iodoaniline | 10.0 mmol, 2.19 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | 2-bromoacetyl bromide | 10.0 mmol, 0.87 mL, 3.40 g | BrCC(=O)Br | C2H2Br2O
reactant | Et3N | 1.39 mL | CCN(CC)CC | C6H15N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-N-(3-iodophenyl)acetamide | 2.824 g, 83% | BrCC(=O)NC1=CC(=CC=C1)I | C8H7BrINO
